US05519040
Dimethylamine was bubbled through a solution of 2-(1-t-butyldimethylsiloxy-4-iodobutyl)-5-thiazole sulfonamide (0.78 mmol, 0.37 g ) in THF (8 mL) at 0° C. After 30 minutes the solvent was removed and the residue taken up in THF and TBAF (1.17 mmol) added. The reaction was stirred at rt for 2 hours. The reaction was concentrated and the residue subjected to flash chromatography (5% MeOH/NH3 /CHCl3) to afford 0.16 g (72%) of 2-(1-hydroxy-4-(N,N-dimethylamino)butyl)-5-thiazole sulfonamide.

reactant | Dimethylamine | CNC | C2H7N
reactant | 2-(1-t-butyldimethylsiloxy-4-iodobutyl)-5-thiazole sulfonamide | 0.78 mmol, 0.37 g | O([Si](C)(C)C(C)(C)C)C(CCCI)C=1SC(=CN1)S(=O)(=O)N | C13H25IN2O3S2Si
reactant | TBAF | 1.17 mmol | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 2-(1-hydroxy-4-(N,N-dimethylamino)butyl)-5-thiazole sulfonamide | 0.16 g, 72% | OC(CCCN(C)C)C=1SC(=CN1)S(=O)(=O)N | C9H17N3O3S2
